US08389743B2
3-(3-Fluoro-4-pyrrolidin-1-ylmethyl-phenyl)-3-hydroxy-cyclobutanecarboxylic acid isobutyl-amide
A THF solution of crude ˜0.12M intermediate 15, 3-(3-fluoro-4-(pyrrolidin-1-ylmethyl)phenyl)-3-hydroxycyclobutanecarboxylic acid (160 mL, 19.3 mmol) was combined with isobutylamine (3.8 mL, 38.2 mmol) and T3P (50% wt in EtOAc, 13.8 mL, 23.2 mmol) and stirred at room temperature for 20 h. The mixture was made basic with saturated aqueous NaHCO3 and EtOAc (50 mL) was added. The phases were separated and the aqueous phase was extracted again with EtOAc. The combined organics were washed with brine, dried over MgSO4 and concentrated to yield an orange oil. Flash chromatography on a 2″×4″ silica gel column flushing first with EtOAc (1 L) and 10% MeOH/EtOAc (500 mL) to remove higher Rf impurities followed by elution with an additional 500 mL of 10% MeOH/EtOAc and 500 mL 20% MeOH/EtOAc afforded 4.22 g (63%) of the title compound as an waxy, orange solid: Rf=0.3 (30% MeOH/EtOAc); 1H NMR (CDCl3) δ 7.34 (t, J=7.9 Hz, 1H), 7.20-7.13 (m, 2H), 5.84 (br s, 1H), 3.66 (d, JH-F=1.3 Hz, 2H), 3.11 (t, J=6.4 Hz, 2H), 2.84-2.76 (m, 3H), 2.55-2.45 (m, 6H), 1.81-1.72 (m, 4H), 0.91-0.87 (d @ 0.90 (J=6.6 Hz, 6H) overlapping m (1H)); LRMS m/z Calcd for C20H29FN2O2, 348.5, found, 349.4 (M+H) APCI.

reactant | 3-(3-fluoro-4-(pyrrolidin-1-ylmethyl)phenyl)-3-hydroxycyclobutanecarboxylic acid | 19.3 mmol, 160 mL | FC=1C=C(C=CC1CN1CCCC1)C1(CC(C1)C(=O)O)O | C16H20FNO3
reactant | isobutylamine | 38.2 mmol, 3.8 mL | C(C(C)C)N | C4H11N
reactant | T3P | 23.2 mmol, 13.8 mL | C(CC)P1(OP(OP(O1)(=O)CCC)(=O)CCC)=O | C9H21O6P3
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | EtOAc | 50 mL | CCOC(=O)C | C4H8O2
solvent | THF | C1CCOC1 | C4H8O
product | 3-(3-Fluoro-4-pyrrolidin-1-ylmethyl-phenyl)-3-hydroxy-cyclobutanecarboxylic acid isobutyl-amide | 4.22 g, 63% | C(C(C)C)NC(=O)C1CC(C1)(O)C1=CC(=C(C=C1)CN1CCCC1)F | C20H29FN2O2
